US06765009B2
Synthesis of 4-{4-[3-(5-tert-butyl-2-methoxy-3-methoxycarbonylamino-phenyl)-ureido]-naphthalen-1-yloxy}-pyridine-2-carboxylic acid
To a solution of 4-{4-[3-(5-tert-butyl-2-methoxy-3-methoxycarbonylamino-phenyl)-ureido]-naphthalen-1-yloxy}-pyridine-2-carboxylic acid methyl ester (1.114 g, 2 mmol) in MeOH (12 mL) was added water (2 mL) and LiOH (58 mg, 2.4 mmol). The resulting mixture was stirred at room temperature for 16 h then neutralized with 2N HCl. The resulting suspension was concentrated to dryness and the residual solid triturated with a mixture of methylene chloride and acetonitrile (300 mL, 2:1). The inorganic salt was filtered and the mother liquor concentrated to give the title compound as a dark tan solid (900 mg, 80%).

reactant | 4-{4-[3-(5-tert-butyl-2-methoxy-3-methoxycarbonylamino-phenyl)-ureido]-naphthalen-1-yloxy}-pyridine-2-carboxylic acid methyl ester | 2 mmol, 1.114 g | COC(=O)C1=NC=CC(=C1)OC1=CC=C(C2=CC=CC=C12)NC(=O)NC1=C(C(=CC(=C1)C(C)(C)C)NC(=O)OC)OC | C31H32N4O7
reactant | water | 2 mL | O | H2O
reactant | LiOH | 2.4 mmol, 58 mg | [Li+].[OH-]
reactant | HCl | 2N | Cl | ClH
solvent | MeOH | 12 mL | CO | CH4O
product | 4-{4-[3-(5-tert-butyl-2-methoxy-3-methoxycarbonylamino-phenyl)-ureido]-naphthalen-1-yloxy}-pyridine-2-carboxylic acid | 900 mg, 80% | C(C)(C)(C)C=1C=C(C(=C(C1)NC(NC1=CC=C(C2=CC=CC=C12)OC1=CC(=NC=C1)C(=O)O)=O)OC)NC(=O)OC | C30H30N4O7
